* ==========================================================================
* comparators_all.lib  -  AutoHV BiCMOS 180  (single consolidated library)
* --------------------------------------------------------------------------
* AUTO-GENERATED by gen_comparators_all.py from the per-cell libraries in
* this directory. Every comparator subckt is collected here under a
* RAIL-SUFFIXED name so they coexist in one file. Bodies are verbatim copies
* (electrically identical) -- edit the per-folder libs and regenerate; do not
* hand-edit this file.
*
* Use:  .include the PDK model lib AND this file, then instance by name:
*   .include "<...>/autohv_bicmos180_case.lib"
*   .include "comparators_all.lib"
*   X1 inp inn out vdd 0 ibp_5uA CMP_RR_5V0 IREF=5u FIN=1
*   Ib vdd ibp_5uA 5u
*
* Ports (all cells):  inp inn out vdd vss <bias>   (vdd/vss only).
* Bias pin encodes expected current+sense: ibp_5uA = source 5 uA IN (CMP_NIN,
*   CMP_RR; diode-tied NMOS, from vdd); ibn_5uA = sink 5 uA OUT (CMP_PIN;
*   diode-tied PMOS, to vss). Drive that pin with a matching current source.
* Polarity        :  OUT high when V(inp) > V(inn).
* Naming          :  CMP_<type>_<rail>  -  type NIN/PIN (general-purpose,
*                    NMOS-/PMOS-input) or RR (rail-to-rail input);
*                    rail 5V0 / 3V3 / 1V8.
* Knobs/specs/sign-off: README.md, general_purpose/DESIGN_NOTES.md, folder READMEs.
*
* Contents (9 subckts):
*   CMP_NIN_5V0
*   CMP_PIN_5V0
*   CMP_NIN_3V3
*   CMP_PIN_3V3
*   CMP_NIN_1V8
*   CMP_PIN_1V8
*   CMP_RR_5V0
*   CMP_RR_3V3
*   CMP_RR_1V8
* ==========================================================================


* ==========================================================================
* GENERAL-PURPOSE  (two-stage; NMOS-input = high CM / PMOS-input = low CM)
* ==========================================================================

.subckt CMP_NIN_5V0 inp inn out vdd vss ibp_5uA params: IREF=5u WSCALE=1 WIN=40u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror ---
Xmb   ibp_5uA  ibp_5uA  vss vss NMOS50 W={10u*WSCALE} L={LANA} M=1   ; diode ref (carries IREF)
* --- stage 1: NMOS pair, PMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibp_5uA vss vss NMOS50 W={10u*WSCALE} L={LANA} M=2   ; Itail = 2*IREF
Xm1   n1  inp tail vss NMOS50 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vss NMOS50 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vdd vdd  PMOS50 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vdd vdd  PMOS50 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibp_5uA vss vss NMOS50 W={10u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vss NMOS50 W={10u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vss NMOS50 W={10u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: PMOS common-source + NMOS current-source load ---
Xm5   o2  n2  vdd vdd  PMOS50 W={80u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibp_5uA  vss vss  NMOS50 W={10u*WSCALE} L={LANA} M=4  ; sink 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS50 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS50 W={10u*WSCALE} L=0.5u M=1
.ends CMP_NIN_5V0

.subckt CMP_PIN_5V0 inp inn out vdd vss ibn_5uA params: IREF=5u WSCALE=1 WIN=80u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror (PMOS diode; ref current pulled from ibn_5uA down toward vss) ---
Xmb   ibn_5uA  ibn_5uA  vdd vdd  PMOS50 W={20u*WSCALE} L={LANA} M=1  ; diode ref (carries IREF)
* --- stage 1: PMOS pair, NMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibn_5uA vdd vdd  PMOS50 W={20u*WSCALE} L={LANA} M=2  ; Itail = 2*IREF
Xm1   n1  inp tail vdd PMOS50 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vdd PMOS50 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vss vss  NMOS50 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vss vss  NMOS50 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibn_5uA vdd vdd PMOS50 W={20u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vdd PMOS50 W={20u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vdd PMOS50 W={20u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: NMOS common-source + PMOS current-source load ---
Xm5   o2  n2  vss vss  NMOS50 W={40u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibn_5uA  vdd vdd  PMOS50 W={20u*WSCALE} L={LANA} M=4  ; source 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS50 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS50 W={10u*WSCALE} L=0.5u M=1
.ends CMP_PIN_5V0

.subckt CMP_NIN_3V3 inp inn out vdd vss ibp_5uA params: IREF=5u WSCALE=1 WIN=40u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror ---
Xmb   ibp_5uA  ibp_5uA  vss vss NMOS33 W={10u*WSCALE} L={LANA} M=1   ; diode ref (carries IREF)
* --- stage 1: NMOS pair, PMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibp_5uA vss vss NMOS33 W={10u*WSCALE} L={LANA} M=2   ; Itail = 2*IREF
Xm1   n1  inp tail vss NMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vss NMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vdd vdd  PMOS33 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vdd vdd  PMOS33 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibp_5uA vss vss NMOS33 W={10u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vss NMOS33 W={10u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vss NMOS33 W={10u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: PMOS common-source + NMOS current-source load ---
Xm5   o2  n2  vdd vdd  PMOS33 W={80u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibp_5uA  vss vss  NMOS33 W={10u*WSCALE} L={LANA} M=4  ; sink 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS33 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS33 W={10u*WSCALE} L=0.5u M=1
.ends CMP_NIN_3V3

.subckt CMP_PIN_3V3 inp inn out vdd vss ibn_5uA params: IREF=5u WSCALE=1 WIN=80u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror (PMOS diode; ref current pulled from ibn_5uA down toward vss) ---
Xmb   ibn_5uA  ibn_5uA  vdd vdd  PMOS33 W={20u*WSCALE} L={LANA} M=1  ; diode ref (carries IREF)
* --- stage 1: PMOS pair, NMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibn_5uA vdd vdd  PMOS33 W={20u*WSCALE} L={LANA} M=2  ; Itail = 2*IREF
Xm1   n1  inp tail vdd PMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vdd PMOS33 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vss vss  NMOS33 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vss vss  NMOS33 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibn_5uA vdd vdd PMOS33 W={20u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vdd PMOS33 W={20u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vdd PMOS33 W={20u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: NMOS common-source + PMOS current-source load ---
Xm5   o2  n2  vss vss  NMOS33 W={40u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibn_5uA  vdd vdd  PMOS33 W={20u*WSCALE} L={LANA} M=4  ; source 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS33 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS33 W={10u*WSCALE} L=0.5u M=1
.ends CMP_PIN_3V3

.subckt CMP_NIN_1V8 inp inn out vdd vss ibp_5uA params: IREF=5u WSCALE=1 WIN=40u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror ---
Xmb   ibp_5uA  ibp_5uA  vss vss NMOS18 W={10u*WSCALE} L={LANA} M=1   ; diode ref (carries IREF)
* --- stage 1: NMOS pair, PMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibp_5uA vss vss NMOS18 W={10u*WSCALE} L={LANA} M=2   ; Itail = 2*IREF
Xm1   n1  inp tail vss NMOS18 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vss NMOS18 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vdd vdd  PMOS18 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vdd vdd  PMOS18 W={20u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibp_5uA vss vss NMOS18 W={10u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vss NMOS18 W={10u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vss NMOS18 W={10u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: PMOS common-source + NMOS current-source load ---
Xm5   o2  n2  vdd vdd  PMOS18 W={80u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibp_5uA  vss vss  NMOS18 W={10u*WSCALE} L={LANA} M=4  ; sink 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS18 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS18 W={10u*WSCALE} L=0.5u M=1
.ends CMP_NIN_1V8

.subckt CMP_PIN_1V8 inp inn out vdd vss ibn_5uA params: IREF=5u WSCALE=1 WIN=80u LIN=2u LANA=2u FIN=1 HYSK=0
* --- bias mirror (PMOS diode; ref current pulled from ibn_5uA down toward vss) ---
Xmb   ibn_5uA  ibn_5uA  vdd vdd  PMOS18 W={20u*WSCALE} L={LANA} M=1  ; diode ref (carries IREF)
* --- stage 1: PMOS pair, NMOS mirror load (both scaled by FIN for offset) ---
Xtail tail ibn_5uA vdd vdd  PMOS18 W={20u*WSCALE} L={LANA} M=2  ; Itail = 2*IREF
Xm1   n1  inp tail vdd PMOS18 W={WIN*FIN} L={LIN*FIN} M=1
Xm2   n2  inn tail vdd PMOS18 W={WIN*FIN} L={LIN*FIN} M=1
Xm3   n1  n1  vss vss  NMOS18 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror in (diode)
Xm4   n2  n1  vss vss  NMOS18 W={10u*WSCALE*FIN} L={LANA*FIN} M=1  ; mirror out -> stage1 out = n2
* --- optional steered-current hysteresis ---
.if (HYSK > 0)
Xhtail sh ibn_5uA vdd vdd PMOS18 W={20u*WSCALE*HYSK} L={LANA} M=1
Xmha   n1  out sh vdd PMOS18 W={20u*WSCALE} L=0.5u M=1
Xmhb   n2  o2  sh vdd PMOS18 W={20u*WSCALE} L=0.5u M=1
.endif
* --- stage 2: NMOS common-source + PMOS current-source load ---
Xm5   o2  n2  vss vss  NMOS18 W={40u*WSCALE} L={LANA} M=1  ; 4x mirror unit -> ~4*IREF
Xm6   o2  ibn_5uA  vdd vdd  PMOS18 W={20u*WSCALE} L={LANA} M=4  ; source 4*IREF
* --- stage 3: CMOS output inverter (rail-to-rail) ---
Xm7   out o2  vdd vdd  PMOS18 W={20u*WSCALE} L=0.5u M=1
Xm8   out o2  vss vss  NMOS18 W={10u*WSCALE} L=0.5u M=1
.ends CMP_PIN_1V8


* ==========================================================================
* RAIL-TO-RAIL INPUT  (complementary pairs summed in a folded cascode)
* ==========================================================================

.subckt CMP_RR_5V0 inp inn out vdd vss ibp_5uA params: IREF=5u FIN=1
* --- bias generation ---
Xrbn  ibp_5uA  ibp_5uA  vss vss NMOS50 W=10u L=1u M=1            ; NMOS diode ref (carries IREF)
Xmir  pmd ibp_5uA  vss vss NMOS50 W=10u L=1u M=1            ; mirror IREF up
Xrbp  pmd pmd vdd vdd PMOS50 W=20u L=1u M=1            ; PMOS diode -> vbp = pmd
Xvc1  k   k   vdd vdd PMOS50 W=20u L=1u M=1            ; vcp = VDD - 2*|Vsg| (VDD-referenced
Xvc2  vcp vcp k   vdd PMOS50 W=20u L=1u M=1            ;   cascode bias: x tracks the rail so
Xisk  vcp ibp_5uA  vss vss NMOS50 W=10u L=1u M=1            ;   the fold sources keep Vds at brownout)
* --- rail-to-rail folded-cascode input stage ---
Xmtn  sn  ibp_5uA  vss vss NMOS50 W=20u L=1u M=1            ; NMOS pair tail (~2*IREF)
Xn1   x   inp sn  vss NMOS50 W={40u*FIN} L={1u*FIN} M=1
Xn2   y   inn sn  vss NMOS50 W={40u*FIN} L={1u*FIN} M=1
Xmtp  sp  pmd vdd vdd PMOS50 W=40u L=1u M=1            ; PMOS pair tail (~2*IREF)
Xp1   a   inp sp  vdd PMOS50 W={80u*FIN} L={1u*FIN} M=1
Xp2   b   inn sp  vdd PMOS50 W={80u*FIN} L={1u*FIN} M=1
Xf1   x   pmd vdd vdd PMOS50 W=60u L=1u M=1            ; top fold sources
Xf2   y   pmd vdd vdd PMOS50 W=60u L=1u M=1
Xcp1  a   vcp x   vdd PMOS50 W=40u L=1u M=1            ; PMOS cascodes x->a, y->b
Xcp2  b   vcp y   vdd PMOS50 W=40u L=1u M=1
Xmm1  a   a   vss vss NMOS50 W={20u*FIN} L={1u*FIN} M=1 ; bottom mirror diode (a)
Xmm2  b   a   vss vss NMOS50 W={20u*FIN} L={1u*FIN} M=1 ; mirror out -> stage-1 out = b
* --- stage 2: common-source gain + current-source load ---
Xs2n  o2  b   vss vss NMOS50 W=40u L=1u M=1
Xs2p  o2  pmd vdd vdd PMOS50 W=40u L=1u M=1
* --- stage 3: CMOS inverter (rail-to-rail digital out) ---
Xbp   out o2  vdd vdd PMOS50 W=20u L=0.5u M=1
Xbn   out o2  vss vss NMOS50 W=10u L=0.5u M=1
.ends CMP_RR_5V0

.subckt CMP_RR_3V3 inp inn out vdd vss ibp_5uA params: IREF=5u FIN=1
* --- bias generation ---
Xrbn  ibp_5uA  ibp_5uA  vss vss NMOS33 W=10u L=1u M=1            ; NMOS diode ref (carries IREF)
Xmir  pmd ibp_5uA  vss vss NMOS33 W=10u L=1u M=1            ; mirror IREF up
Xrbp  pmd pmd vdd vdd PMOS33 W=20u L=1u M=1            ; PMOS diode -> vbp = pmd
Xvc1  k   k   vdd vdd PMOS33 W=20u L=1u M=1            ; vcp = VDD - 2*|Vsg| (VDD-referenced
Xvc2  vcp vcp k   vdd PMOS33 W=20u L=1u M=1            ;   cascode bias: x tracks the rail so
Xisk  vcp ibp_5uA  vss vss NMOS33 W=10u L=1u M=1            ;   the fold sources keep Vds at brownout)
* --- rail-to-rail folded-cascode input stage ---
Xmtn  sn  ibp_5uA  vss vss NMOS33 W=20u L=1u M=1            ; NMOS pair tail (~2*IREF)
Xn1   x   inp sn  vss NMOS33 W={40u*FIN} L={1u*FIN} M=1
Xn2   y   inn sn  vss NMOS33 W={40u*FIN} L={1u*FIN} M=1
Xmtp  sp  pmd vdd vdd PMOS33 W=40u L=1u M=1            ; PMOS pair tail (~2*IREF)
Xp1   a   inp sp  vdd PMOS33 W={80u*FIN} L={1u*FIN} M=1
Xp2   b   inn sp  vdd PMOS33 W={80u*FIN} L={1u*FIN} M=1
Xf1   x   pmd vdd vdd PMOS33 W=60u L=1u M=1            ; top fold sources
Xf2   y   pmd vdd vdd PMOS33 W=60u L=1u M=1
Xcp1  a   vcp x   vdd PMOS33 W=40u L=1u M=1            ; PMOS cascodes x->a, y->b
Xcp2  b   vcp y   vdd PMOS33 W=40u L=1u M=1
Xmm1  a   a   vss vss NMOS33 W={20u*FIN} L={1u*FIN} M=1 ; bottom mirror diode (a)
Xmm2  b   a   vss vss NMOS33 W={20u*FIN} L={1u*FIN} M=1 ; mirror out -> stage-1 out = b
* --- stage 2: common-source gain + current-source load ---
Xs2n  o2  b   vss vss NMOS33 W=40u L=1u M=1
Xs2p  o2  pmd vdd vdd PMOS33 W=40u L=1u M=1
* --- stage 3: CMOS inverter (rail-to-rail digital out) ---
Xbp   out o2  vdd vdd PMOS33 W=20u L=0.5u M=1
Xbn   out o2  vss vss NMOS33 W=10u L=0.5u M=1
.ends CMP_RR_3V3

.subckt CMP_RR_1V8 inp inn out vdd vss ibp_5uA params: IREF=5u FIN=1
* --- bias generation ---
Xrbn  ibp_5uA  ibp_5uA  vss vss NMOS18 W=10u L=1u M=1            ; NMOS diode ref (carries IREF)
Xmir  pmd ibp_5uA  vss vss NMOS18 W=10u L=1u M=1            ; mirror IREF up
Xrbp  pmd pmd vdd vdd PMOS18 W=20u L=1u M=1            ; PMOS diode -> vbp = pmd
Xvc1  k   k   vdd vdd PMOS18 W=20u L=1u M=1            ; vcp = VDD - 2*|Vsg| (VDD-referenced
Xvc2  vcp vcp k   vdd PMOS18 W=20u L=1u M=1            ;   cascode bias: x tracks the rail so
Xisk  vcp ibp_5uA  vss vss NMOS18 W=10u L=1u M=1            ;   the fold sources keep Vds at brownout)
* --- rail-to-rail folded-cascode input stage ---
Xmtn  sn  ibp_5uA  vss vss NMOS18 W=20u L=1u M=1            ; NMOS pair tail (~2*IREF)
Xn1   x   inp sn  vss NMOS18 W={40u*FIN} L={1u*FIN} M=1
Xn2   y   inn sn  vss NMOS18 W={40u*FIN} L={1u*FIN} M=1
Xmtp  sp  pmd vdd vdd PMOS18 W=40u L=1u M=1            ; PMOS pair tail (~2*IREF)
Xp1   a   inp sp  vdd PMOS18 W={80u*FIN} L={1u*FIN} M=1
Xp2   b   inn sp  vdd PMOS18 W={80u*FIN} L={1u*FIN} M=1
Xf1   x   pmd vdd vdd PMOS18 W=60u L=1u M=1            ; top fold sources
Xf2   y   pmd vdd vdd PMOS18 W=60u L=1u M=1
Xcp1  a   vcp x   vdd PMOS18 W=40u L=1u M=1            ; PMOS cascodes x->a, y->b
Xcp2  b   vcp y   vdd PMOS18 W=40u L=1u M=1
Xmm1  a   a   vss vss NMOS18 W={20u*FIN} L={1u*FIN} M=1 ; bottom mirror diode (a)
Xmm2  b   a   vss vss NMOS18 W={20u*FIN} L={1u*FIN} M=1 ; mirror out -> stage-1 out = b
* --- stage 2: common-source gain + current-source load ---
Xs2n  o2  b   vss vss NMOS18 W=40u L=1u M=1
Xs2p  o2  pmd vdd vdd PMOS18 W=40u L=1u M=1
* --- stage 3: CMOS inverter (rail-to-rail digital out) ---
Xbp   out o2  vdd vdd PMOS18 W=20u L=0.5u M=1
Xbn   out o2  vss vss NMOS18 W=10u L=0.5u M=1
.ends CMP_RR_1V8
